US07981903B2
To a solution of 5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole (1.00 g, 5.2 mmol) in dichloromethane (50 mL) was added polymer supported diisopropylethylamine (Argonaut Technologies Inc., 4.0 g, ca 15 mmol base) and bromoacetylchloride (0.650 mL, 7.82 mmol). The resulting solution was stirred for three hours and filtered through a plug of celite. Dichloromethane was removed under reduced pressure and the residue was dissolved in tetrahydrofuran (50 mL). To the solution was added dimethylamine as a 2.0M solution in tetrahydrofuran (60 mmol, Aldrich) and the resulting solution was stirred overnight. The next morning the volatiles were removed under reduced pressure and the residue was purified via chromatography on SiO2 (0-10% MeOH/CH2CL2 with 0.2% NH3) to afford N,N-dimethyl-2-[5-(methyloxy)-6-nitro-2,3-dihydro-1H-indol-1-yl]-2-oxoethanamine as a yellow solid (1.20 g, 4.33 mmol, 84% yield). 1H NMR (400 MHz, CDCl3) δ ppm 2.59 (s, 6 H), 3.24 (t, J=8.24 Hz, 2 H), 3.52 (s, 2 H), 3.89 (s, 3 H), 4.19 (t, J=8.52 Hz, 2 H), 6.89 (s, 1 H), 8.60 (s, 1 H).

reactant | 5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole | 5.2 mmol, 1.00 g | COC=1C=C2CCNC2=CC1[N+](=O)[O-] | C9H10N2O3
reactant | diisopropylethylamine | ca 15 mmol, 4.0 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bromoacetylchloride | 7.82 mmol, 0.650 mL | BrCC(=O)Cl | C2H2BrClO
reactant | dimethylamine | CNC | C2H7N
reactant | tetrahydrofuran | 60 mmol | O1CCCC1 | C4H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N,N-dimethyl-2-[5-(methyloxy)-6-nitro-2,3-dihydro-1H-indol-1-yl]-2-oxoethanamine | 4.33 mmol, 1.20 g, 84% yield | CN(CC(=O)N1CCC2=CC(=C(C=C12)[N+](=O)[O-])OC)C | C13H17N3O4
